US07429605B2
ii) 3-Chloromethyl-6-(4-fluoro-phenyl)-2-methyl-pyridine
10.1 g (6.2 ml, 85 mmol) thionyl chloride is added drop by drop within 15 min. at 0° C. to a solution of 0.2 ml N,N-dimethylformamide (DMF) and 9.24 g (42.5 mmol) [6-(4-Fluor-phenyl)-2-methyl-pyridin-3-yl]-methanol, and stirred for 3 h at room temperature (r.t.) The mixture is poured on ice/sodium bicarbonate solution, the organic phase separated, washed with water, dried (sodium sulphate), and evaporated. 9.78 g (97%) of the title compound were obtained.

reactant | thionyl chloride | 85 mmol, 6.2 ml, 10.1 g | S(=O)(Cl)Cl | Cl2OS
reactant | [6-(4-Fluor-phenyl)-2-methyl-pyridin-3-yl]-methanol | 42.5 mmol, 9.24 g | FC1=CC=C(C=C1)C1=CC=C(C(=N1)C)CO | C13H12FNO
solvent | N,N-dimethylformamide | 0.2 ml | CN(C=O)C | C3H7NO
product | 3-Chloromethyl-6-(4-fluoro-phenyl)-2-methyl-pyridine | 9.78 g, 97% | ClCC=1C(=NC(=CC1)C1=CC=C(C=C1)F)C | C13H11ClFN
